US05547972
In a similar manner to Example 52b, 3-chloro-2,2-dimethylpropionyl chloride (27.4 g) in dichloromethane (100 ml) was added to 4-chlorobenzylamine (25.0 g) and triethylamine (24.6 ml) in dichloromethane (400 ml) to give 3-chloro-N-(4-chlorobenzyl)-2,2-dimethylpropionamide, m.p. 97°-98° C.

reactant | 3-chloro-2,2-dimethylpropionyl chloride | 27.4 g | ClCC(C(=O)Cl)(C)C | C5H8Cl2O
reactant | 4-chlorobenzylamine | 25.0 g | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | triethylamine | 24.6 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | 3-chloro-N-(4-chlorobenzyl)-2,2-dimethylpropionamide | ClCC(C(=O)NCC1=CC=C(C=C1)Cl)(C)C | C12H15Cl2NO
